US05972972
C. Preparation of ethyl 3-(4-pyridyl)propionate
Ethyl 3-(4-pyridyl)acrylate (16.62 g, 93.8 mmol) was hydrogenated in 80 ml of ethanol over 5% Pd on carbon (2 g) at 60 psi at room temperature for 16 hours. After evaporation, the residue was dissolved in 200 ml of diethyl ether and filtered through diatomaceous silica and concentrated to afford 15.97 g (95% yield) of the subtitle compound. D. Preparation of thyl 3-(4-(2-hydroxymethyl)pyridyl)propionate

reactant | Ethyl 3-(4-pyridyl)acrylate | 93.8 mmol, 16.62 g | N1=CC=C(C=C1)C=CC(=O)OCC | C10H11NO2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 2 g | [Pd] | Pd
product | ethyl 3-(4-pyridyl)propionate | 15.97 g, 95% yield | N1=CC=C(C=C1)CCC(=O)OCC | C10H13NO2
